US07915250B2
To a solution of 1,1-dimethylethyl 3-[1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate (408 mg, 0.93 mmol) in methanol (15 mL) was added 10% palladium on carbon (wet), and the resulting suspension was subjected to an atmosphere of hydrogen for 21 hours. The catalyst was removed by filtration through celite, and the filter cake was rinsed with methanol. The combined filtrate was concentrated to provide 1,1-dimethylethyl 3-hydroxy-3-piperazin-2-ylazetidine-1-carboxylate as a brown syrup (227 mg, 0.88 mmol, 95% yield). 1H NMR, (400 MHz, CDCl3): 3.94-3.76 (m, 5H), 3.12 (m, 1H), 3.01 (m, 1H), 2.94-2.81 (m, 3H), 2.78-2.70 (m, 2H); MS (EI) for C12H23N3O3: 258 (MH+).

reactant | 1,1-dimethylethyl 3-[1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate | 0.93 mmol, 408 mg | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C26H35N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1,1-dimethylethyl 3-hydroxy-3-piperazin-2-ylazetidine-1-carboxylate | 0.88 mmol, 227 mg, 95% yield | OC1(CN(C1)C(=O)OC(C)(C)C)C1NCCNC1 | C12H23N3O3
